US09428528B2
Step 1 Preparation of (1R,2R)-2-Amino-1-(4-azido-phenyl)-3-fluoro-propan-1-ol
To the stirred solution of (1R,2R)-2-Amino-3-fluoro-1-(4-iodo-phenyl)-propan-1-ol (1 g, 3.38 mmol) in dimethylsulfoxide: water (9:1, 10 mL) is added NaN3 (0.26 g, 3.99 mmol), Na-ascorbate (0.1 g, 0.50 mmol), CuSO4.5H2O (0.17 g, 0.68 mmol), L-proline (78 mg, 0.67 mmol), K2CO3 (93 mg 0.67 mmol) and resulting reaction mixture heated to 60° C. for 5 hours. Diluted with cold water and extracted with ethylacetate and washed with excess of water and brine. Organic layer dried over sodium sulphate and solvent is evaporated in vacuo to get the crude title compound (0.6 g, crude), used as such in next step. LC-MS (m/z): [M+H]=211.2.

reactant | (1R,2R)-2-Amino-3-fluoro-1-(4-iodo-phenyl)-propan-1-ol | 3.38 mmol, 1 g | N[C@H]([C@H](O)C1=CC=C(C=C1)I)CF | C9H11FINO
reactant | NaN3 | 3.99 mmol, 0.26 g | [N-]=[N+]=[N-].[Na+]
reactant | L-proline | 0.67 mmol, 78 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 0.67 mmol, 93 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylsulfoxide water | 10 mL | CS(=O)C.O
solvent | water | O | H2O
product | (1R,2R)-2-Amino-1-(4-azido-phenyl)-3-fluoro-propan-1-ol | 0.6 g | N[C@H]([C@H](O)C1=CC=C(C=C1)N=[N+]=[N-])CF | C9H11FN4O
